* C:\Users\adare\OneDrive\Documentos\Maestria Cinvestav\Microondas\proyecto\Test R network\Rnetwork.asc
R1 N1 0 10
R2 N3 N1 5
R3 N3 0 10
R4 N4 N3 5
R5 N4 0 10
R6 N2 N4 5
R7 N2 0 10
.backanno
.end
