* C:\Users\adare\OneDrive\Documentos\Maestria Cinvestav\Microondas\proyecto\Circuitos de prueba\Test R network\Rnetwork.asc
R1 N001 0 10
R2 N003 N001 5
R3 N003 0 10
R4 N004 N003 5
R5 N004 0 10
R6 N002 N004 5
R7 N002 0 10
.backanno
.end
